US04066438
4-Amino-2-(2-aminoethoxy)-3,5-dichloropyridine
A mixture containing 21.4 grams (0.35 mole) of 2-aminoethanol, 50 milliliters of dimethylsulfoxide and 20 grams (0.36 mole) of potassium hydroxide was heated at 110° C. until all of the potassium hydroxide was reacted. The solution was added to a mixture containing 69 grams (0.35 mole) of 4-amino-2,3,5-trichloropyridine dissolved in 200 milliliters of dimethylsulfoxide. The mixture was heated for 11/2 hours at 138° C. to 150° C. under agitation and thereafter quenched by pouring into ice water. The solid which precipitated was recovered by filtration under reduced pressure, dried and recrystallized from a mixture of hexane and chloroform. The solid was dissolved in 100 milliliters of dimethylsulfoxide and mixed with a solution composed of 21.4 grams (0.35 mole) of 2-aminoethanol and 20 grams (0.36 mole) of potassium hydroxide dissolved in 50 milliliters of dimethylsulfoxide. This mixture was heated for 2 hours at 150° C., cooled by quenching with ice water to precipitate the product as a solid which was recovered by filtration under reduced pressure. This product was distilled under azeotropic conditions with benzene to remove water from the 4-amino-2-(2-aminoethoxy)-3,5-dichloropyridine product which has a melting point of 115°-116.5° C.

reactant | 2-aminoethanol | 0.35 mole, 21.4 grams | NCCO | C2H7NO
reactant | potassium hydroxide | 0.36 mole, 20 grams | [OH-].[K+]
reactant | 4-amino-2,3,5-trichloropyridine | 0.35 mole, 69 grams | NC1=C(C(=NC=C1Cl)Cl)Cl | C5H3Cl3N2
reactant | 2-aminoethanol | 0.35 mole, 21.4 grams | NCCO | C2H7NO
reactant | potassium hydroxide | 0.36 mole, 20 grams | [OH-].[K+]
solvent | dimethylsulfoxide | 200 milliliters | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 milliliters | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 milliliters | CS(=O)C | C2H6OS
product | 4-Amino-2-(2-aminoethoxy)-3,5-dichloropyridine | NC1=C(C(=NC=C1Cl)OCCN)Cl | C7H9Cl2N3O
